US04053618
A mixture of 2.13 g of ethyl 2-propyl-5-thiazole acetate, 11 ml of methanol and 1.1 ml of potassium hydroxide was stirred for 1 hour under a nitrogen atmosphere at room temperature and the methanol was distilled under reduced pressure. The residue was dissolved in 5 ml of water and 2 ml of concentrated hydrochloric acid and then 2.1 g of sodium acetate were added thereto. The mixture was extracted with methylene chloride and the organic extracts were dried and evaporated to dryness. The residue was crystallized from toluene to obtain 1.24g of 2-propyl-5-thiazole-acetic acid melting at 95° C.

reactant | ethyl 2-propyl-5-thiazole acetate | 2.13 g | C(CC)C=1SC(=CN1)CC(=O)OCC | C10H15NO2S
reactant | potassium hydroxide | 1.1 ml | [OH-].[K+]
solvent | methanol | 11 ml | CO | CH4O
product | 2-propyl-5-thiazole-acetic acid | 1.24g | C(CC)C=1SC(=CN1)CC(=O)O | C8H11NO2S
